### ISSUE TITLE
Proof obligation for `I` in `src/Bluebell/ProbabilityTheory/Coupling.lean`

### ISSUE THREAD

**Issue by alexanderlhicks** [Verified-zkEVM/iris-lean#23]
A proof in `src/Bluebell/ProbabilityTheory/Coupling.lean` contains a `sorry`.

**Goal:** Replace the `sorry` with a complete proof.

[Link to the sorry on GitHub](https://github.com/Verified-zkEVM/iris-lean/blob/master/src/Bluebell/ProbabilityTheory/Coupling.lean#L101)

**Code Snippet:**
```lean
theorem IsCoupling.bind {α₁ α₂ β₁ β₂ : Type u}
    {p : SPMF α₁} {q : SPMF α₂} {f : α₁ → SPMF β₁} {g : α₂ → SPMF β₂}
    (c : Coupling p q) (d : (a₁ : α₁) → (a₂ : α₂) → SPMF (β₁ × β₂))
    (h : ∀ (a₁ : α₁) (a₂ : α₂), c.1.1 (some (a₁, a₂)) ≠ 0 → IsCoupling (d a₁ a₂) (f a₁) (g a₂)) :
    IsCoupling (c.1 >>= λ (p : α₁ × α₂) => d p.1 p.2) (p >>= f) (q >>= g) := by
  obtain ⟨hc₁, hc₂⟩ := c.2
  constructor
  · simp [← hc₁]; congr; funext ⟨a₁, a₂⟩; have := h a₁ a₂; sorry
```
